US07112610B2
2-Cyano-4,4,8-trimethyl-non-2-enoic acid benzyl ester (1.3 g, 4.14 mmol) in THF (50 mL) was treated with hydrogen in the presence of 20% Pd/C to give a mixture of the cyano acid and the cyano methyl ester. The mixture was purified by silica gel chromatography to give 278 mg of cyano acid. The acid was then treated with hydrogen in the presence of Raney Ni in MeOH/NH4OH to give 0.16 g of 2-aminomethyl-4,4,8-trimethyl-nonanoic acid. m/z 230.3 (M+).

reactant | 2-Cyano-4,4,8-trimethyl-non-2-enoic acid benzyl ester | 4.14 mmol, 1.3 g | C(C1=CC=CC=C1)OC(C(=CC(CCCC(C)C)(C)C)C#N)=O | C20H27NO2
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH NH4OH | CO.[NH4+].[OH-]
catalyst | Pd/C | [Pd] | Pd
catalyst | Ni | [Ni] | Ni
product | 2-aminomethyl-4,4,8-trimethyl-nonanoic acid | 0.16 g | NCC(C(=O)O)CC(CCCC(C)C)(C)C | C13H27NO2
